US07465731B2
(2E)-3-(6-{[(3R)-1-Benzyl-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride (860 mg) was dissolved into water (40 ml), and the solution was adjusted to ca. pH4.0 by addition of a few drops of aq NaHCO3 solution. The aqueous solution was chromatographed with HP-20 (100 ml), washing with water and eluting with 75% aqueous MeOH. The elute was concentrated to ca. 10 ml in vacuo, and the resulting precipitate was collected by filtration. (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide (240 mg) was obtained as colorless powder.

reactant | (2E)-3-(6-{[(3R)-1-Benzyl-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride | 860 mg | Cl.Cl.C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)NO
catalyst | NaHCO3 | a few drops | C(=O)(O)[O-].[Na+]
solvent | water | 40 ml | O | H2O
product | (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide | 240 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)NO | C19H22N4O2
